US05574042
A mixture of 3-bromo-8-[2,6-dichloro-3-(N-methyl-N-phthalimidoacetylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine (450 mg) and hydrazine hydrate (41 mg) in methanol (5 ml) were refluxed for 30 minutes, and hydrazine hydrate (41 mg) was added thereto, and further, the mixture was refluxed for 1.5 hours. The resulting precipitates were filtered off and the filtrate was concentrated in vacuo. The residue was dissolved in chloroform and the solution was washed with water twice and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was crystallized with diethyl ether to give 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine (338 mg).

reactant | 3-bromo-8-[2,6-dichloro-3-(N-methyl-N-phthalimidoacetylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine | 450 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(CN2C(C=1C(C2=O)=CC=CC1)=O)=O)C)Cl)C | C26H19BrCl2N4O4
reactant | hydrazine hydrate | 41 mg | O.NN
reactant | hydrazine hydrate | 41 mg | O.NN
solvent | methanol | 5 ml | CO | CH4O
product | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine | 338 mg | NCC(=O)N(C)C=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl | C18H17BrCl2N4O2
